US07199139B2
2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethanol
The target compound (3.84 g) was obtained as white crystals by carrying out the reaction and the post-treatment according to Reference examples 1(c) and 1(d) of WO 97/37970(EP 916651A) using 2-(2-bromoethoxy)tetrahydropyran (6.84 g), 4′-(4-fluorophenyl)acetophenone oxime (5.00 g), potassium carbonate (6.02 g) and a catalytic amount of p-toluenesulfonic acid monohydrate.

reactant | 2-(2-bromoethoxy)tetrahydropyran | 6.84 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | 4′-(4-fluorophenyl)acetophenone oxime | 5.00 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NO | C14H12FNO
reactant | potassium carbonate | 6.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-[[1-(4′-Fluoro-4-biphenylyl)ethylidene]aminoxy]ethanol | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=NOCCO | C16H16FNO2
